US05021440
To 0.255 g (0.001 mole) of 1,3-dimethyl-2-[(3-chloro-2-oxopropyl)thio]-1H-imidazolium chloride was added a solution of 0.156 g (0.001 mol) of 1,3,4,5-tetramethylimidazoline-2-thione in 5 mL of ethanol and the reaction mixture was stirred for 3 hours at ambient temperature. At the end of this period, the solvent was evaporated and the residue was crystallized from isopropyl alcohol-acetonehexane to obtain the desired 2-{(3-[(1,3-dimethyl-1H-imidazolium-2-yl)thio]-2-oxopropyl)thio}- 1,3,4,5-tetramethyl-1H-imidazolium dichloride compound as a hygroscopic solid.

reactant | 1,3-dimethyl-2-[(3-chloro-2-oxopropyl)thio]-1H-imidazolium chloride | 0.001 mole, 0.255 g | [Cl-].C[NH+]1C(N(C=C1)C)SCC(CCl)=O
reactant | 1,3,4,5-tetramethylimidazoline-2-thione | 0.001 mol, 0.156 g | CN1C(N(C(C1C)C)C)=S | C7H14N2S
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 2-{(3-[(1,3-dimethyl-1H-imidazolium-2-yl)thio]-2-oxopropyl)thio}- 1,3,4,5-tetramethyl-1H-imidazolium dichloride | [Cl-].[Cl-].C[NH+]1C(N(C=C1)C)SCC(CSC1[NH+](C(=C(N1C)C)C)C)=O | InChI=1S/C15H26N4OS2.2ClH/c1-11-12(2)19(6)15(18(11)5)22-10-13(20)9-21-14-16(3)7-8-17(14)4;;/h7-8,14-15H,9-10H2,1-6H3;2*1H
